US09226916B2
{(3S,4R)-4-(4-Chloro-phenyl)-1-[1-(4-methyl-pyrimidin-2-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound {(3S,4R)-4-(4-chloro-phenyl)-1-[1-(4-methyl-pyrimidin-2-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 1-(4-methyl-pyrimidin-2-yl)-piperidine-4-carboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as a yellow foam. MS m/e: 552.4 [M]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | 1-(4-methyl-pyrimidin-2-yl)-piperidine-4-carboxylic acid | CC1=NC(=NC=C1)N1CCC(CC1)C(=O)O | C11H15N3O2
product | {(3S,4R)-4-(4-chloro-phenyl)-1-[1-(4-methyl-pyrimidin-2-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C1=NC=CC(=N1)C)=O | C29H31ClFN5O3
